US08084470B2
A solution of 408 mg (2.0 mmol) of 2-(3-fluorophenylsulfonyl)ethanol in DCM (5 ml) was cooled to 0° C.; 304 μl (2.2 mmol) of NEt3 and 154 μl (2.0 mmol) of methanesulfonic acid chloride were added thereto, and stirring was carried out for 16 hours at RT. In another vessel, 275 mg (2.0 mmol) of K2CO3 were added to a solution of 500 mg (2.0 mmol) of 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide in DMF (6 ml), and stirring was carried out for 30 min at RT. The DCM reaction solution was added to this solution, and stirring was continued for 72 hours at RT. The mixture was then diluted with EA and washed with 1 N aqueous NaHCO3 solution. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. CC (DCM/EA 4:1) of the residue yielded 194 mg (0.44 mmol, 22%) of 2-[2-(3-fluorophenyl)sulfonylethylthio]-N-(2-thienylmethyl)-nicotinamide. MS: m/z 437.0 [M+H]+

reactant | 2-(3-fluorophenylsulfonyl)ethanol | 2.0 mmol, 408 mg | FC=1C=C(C=CC1)S(=O)(=O)CCO | C8H9FO3S
reactant | NEt3 | 2.2 mmol, 304 μl | CCN(CC)CC | C6H15N
reactant | methanesulfonic acid chloride | 2.0 mmol, 154 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 2.0 mmol, 275 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-mercapto-N-(thiophen-2-ylmethyl)nicotinamide | 2.0 mmol, 500 mg | SC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C11H10N2OS2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
solvent | DCM EA | C(Cl)Cl.CC(OCC)=O
product | 2-[2-(3-fluorophenyl)sulfonylethylthio]-N-(2-thienylmethyl)-nicotinamide | 0.44 mmol, 194 mg, 22% | FC=1C=C(C=CC1)S(=O)(=O)CCSC1=C(C(=O)NCC=2SC=CC2)C=CC=N1 | C19H17FN2O3S3
